US08686048B2
Intermediate 63: 3′-cyclopropoxy-3,5-difluorobiphenyl-4-amine
The title compound (170 mg) was prepared from 4-bromo-2,6-difluoroaniline (1.2 g, 5.76 mmol) and 2-(3-cyclopropoxyphenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (1.5 g, 5.76 mmol) as a yellow liquid.

reactant | 4-bromo-2,6-difluoroaniline | 5.76 mmol, 1.2 g | BrC1=CC(=C(N)C(=C1)F)F | C6H4BrF2N
reactant | 2-(3-cyclopropoxyphenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 5.76 mmol, 1.5 g | C1(CC1)OC=1C=C(C=CC1)B1OC(C(O1)(C)C)(C)C | C15H21BO3
product | 3′-cyclopropoxy-3,5-difluorobiphenyl-4-amine | 170 mg | C1(CC1)OC=1C=C(C=CC1)C1=CC(=C(C(=C1)F)N)F | C15H13F2NO
